US07687491B2
(6c) 1-({4-[5-(4-Benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid
The title compound (67 mg) was synthesized in a yield of 86% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using ethyl 1-({4-[5-(4-benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate (82 mg, 0.18 mmol) that was obtained in Example 6 (6b), and a 1N aqueous solution of sodium hydroxide (0.54 ml, 0.54 mmol).

reactant | ethyl 1-({4-[5-(4-benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | 0.18 mmol, 82 mg | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(SC1)CN1CC(C1)C(=O)OCC | C26H25N3O3S
reactant | sodium hydroxide | 0.54 mmol, 0.54 ml | [OH-].[Na+]
product | 1-({4-[5-(4-Benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid | 67 mg, yield of 86% | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(SC1)CN1CC(C1)C(=O)O | C24H21N3O3S
